**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  Common Mode Power Line Choke
* Matchcode:              WE-FCL 
* Library Type:           LTspice
* Version:                rev22a
* Created/modified by:    Ella      
* Date and Time:          2022-05-26
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.SUBCKT  FCL  1  2  3  4  PARAMS:
L5  N011  N010  {L3}
R50  N011  N010  {Rs3}
C3  N500  N001  {C1}
R500  4  N500  {R2}
L1  4  N012  {L1}
R51  4  N012  {Rs1}
L3  N012  N011  {L2}
R52  N012  N011  {Rs2}
L6  N015  N014  {L3}
R53  N015  N014  {Rs3}
C4  N501  N013  {C1}
R501  3  N501  {R2}
L2  3  N016  {L1}
R54  3  N016  {Rs1}
L4  N016  N015  {L2}
R55  N016  N015  {Rs2}
L8  N014  N013  {L4}
R56  N014  N013  {Rs4}
L7  N010  N001  {L4}
R57  N010  N001  {Rs4}
L9  N001  N007  {L5}
R58  N001  N007  {Rs5}
C50  N001  N007  {C2}
L10  N013  N022  {L5}
R59  N013  N022  {Rs5}
C51  N013  N022  {C2}
L11  N007  N006  {L6}
R60  N007  N006  {Rs6}
C52  N007  N006  {C3}
L12  N022  N021  {L6}
R61  N022  N021  {Rs6}
C53  N022  N021  {C3}
R1  N002  1  {Rdc}
R2  N004  N002  {dR4}
C1  N003  N002  {dC3}
L17  N008  N002  {dL3}
L18  N017  N018  {dL3}
C2  N008  N018  {ck}
Ropen  N008  N018  1000g
R3  N004  N003  {dR3}
R4  N019  N023  {dR3}
C9  N023  N017  {dC3}
R5  N019  N017  {dR4}
L19  N004  N008  {dL3}
L20  N018  N019  {dL3}
R6  N017  2  {Rdc}
R8  N006  N004  {dR6}
C10  N005  N004  {dC4}
L13  N009  N004  {dL4}
L14  N019  N020  {dL4}
C11  N009  N020  {ck}
R9  N006  N005  {dR5}
R10  N021  N024  {dR5}
C12  N024  N019  {dC4}
R11  N021  N019  {dR6}
L15  N006  N009  {dL4}
L16  N020  N021  {dL4}
K3  L5  L6  1
K2  L3  L4  1
K1  L1  L2  1
K4  L7  L8  1
K5  L9  L10  1
K6  L11  L12  1
K8  L17  L18  L19  L20  0.9999
K7  L13  L14  L15  L16  0.9999
.ends  FCL
**********
.SUBCKT  ET35_744866103_10m  1  2  3  4
X1  1  2  3  4  FCL  PARAMS:
+  L1=0.00149839836666115
+  L2=0.000389848865674813
+  L3=0.011429291843546601
+  L4=9.67471514731328e-006
+  L5=6.96173877496358e-004
+  L6=6.56452624158199e-008
+  C1=9.93463669795708e-012
+  C2=8.70245598062277e-011
+  C3=3.9379663444007e-013
+  Rs1=11.5793662352201
+  Rs2=159542.09260314847
+  Rs3=63732.76947949667
+  Rs4=94352.7577365101
+  Rs5=246.5292349339921
+  Rs6=1411.8156935242947
+  R2=12.4422510600994
+  dL3=47198e-010
+  dC3=9.5e-012
+  dL4=5.11e-9
+  dC4=5.33e-07
+  dR3=1.48
+  dR4=22668
+  dR5=400.58
+  dR6=5266
+  Rdc=94.5m
+  ck=3.4p
.ends  ET35_744866103_10m
*******  
.SUBCKT  ET35_744866104_100m  1  2  3  4
X1  1  2  3  4  FCL  PARAMS:
+  L1=0.0449839836666115
+  L2=0.0799848865674813
+  L3=0.011429291843546601
+  L4=9.67471514731328e-006
+  L5=6.96173877496358e-004
+  L6=6.56452624158199e-008
+  C1=9.33463669795708e-012
+  C2=8.70245598062277e-011
+  C3=3.9379663444007e-013
+  Rs1=1100.5793662352201
+  Rs2=852142.09260314847
+  Rs3=163732.76947949667
+  Rs4=94352.7577365101
+  Rs5=246.5292349339921
+  Rs6=711.8156935242947
+  R2=30.4422510600994
+  dL3=4719e-08
+  dC3=1e-011
+  dL4=6.11e-9
+  dC4=6.33e-08
+  dR3=1.48
+  dR4=56768
+  dR5=350.58
+  dR6=9266
+  Rdc=0.74
+  ck=3.4p
.ends  ET35_744866104_100m
*******  
.SUBCKT  ET35_744866223_22m  1  2  3  4
X1  1  2  3  4  FCL  PARAMS:
+  L1=0.0449839836666115
+  L2=0.0159848865674813
+  L3=0.011429291843546601
+  L4=9.67471514731328e-006
+  L5=6.96173877496358e-004
+  L6=6.46452624158199e-008
+  C1=9.13463669795708e-012
+  C2=8.70245598062277e-011
+  C3=3.9379663444007e-013
+  Rs1=11.5793662352201
+  Rs2=130542.09260314847
+  Rs3=63732.76947949667
+  Rs4=94352.7577365101
+  Rs5=246.5292349339921
+  Rs6=1111.8156935242947
+  R2=12.4422510600994
+  dL3=879e-08
+  dC3=1.2e-011
+  dL4=4.11e-9
+  dC4=5.33e-05
+  dR3=1.48
+  dR4=36768
+  dR5=200.58
+  dR6=9266
+  Rdc=0.1836
+  ck=3.4p
.ends  ET35_744866223_22m
 ****** 
.SUBCKT  ET35_744866392_3.9m  1  2  3  4
X1  1  2  3  4  FCL  PARAMS:
+  L1=0.000299839836666115
+  L2=0.000199848865674813
+  L3=0.004929291843546601
+  L4=9.67471514731328e-006
+  L5=6.96173877496358e-004
+  L6=4.06452624158199e-008
+  C1=9.93463669795708e-012
+  C2=8.70245598062277e-011
+  C3=9.9379663444007e-013
+  Rs1=211.5793662352201
+  Rs2=19942.09260314847
+  Rs3=23032.76947949667
+  Rs4=9352.7577365101
+  Rs5=256.5292349339921
+  Rs6=1411.8156935242947
+  R2=12.4422510600994
+  dL3=20798e-010
+  dC3=9.5e-012
+  dL4=4.51e-9
+  dC4=3.33e-07
+  dR3=1.48
+  dR4=13168
+  dR5=600.58
+  dR6=52606
+  Rdc=52.08m
+  ck=3.4p
.ends  ET35_744866392_3.9m
******
.SUBCKT  ET35_744866563_56m  1  2  3  4
X1  1  2  3  4  FCL  PARAMS:
+  L1=0.0299839836666115
+  L2=0.0199848865674813
+  L3=0.03629291843546601
+  L4=9.67471514731328e-006
+  L5=6.96173877496358e-004
+  L6=4.56452624158199e-008
+  C1=9.23463669795708e-012
+  C2=8.70245598062277e-011
+  C3=12.9379663444007e-013
+  Rs1=1211.5793662352201
+  Rs2=1109942.09260314847
+  Rs3=1530032.76947949667
+  Rs4=9352.7577365101
+  Rs5=256.5292349339921
+  Rs6=511.8156935242947
+  R2=12.4422510600994
+  dL3=28198e-09
+  dC3=9.5e-012
+  dL4=4.11e-9
+  dC4=5.33e-08
+  dR3=1.48
+  dR4=72668
+  dR5=100.58
+  dR6=19266
+  Rdc=480m
+  ck=3.4p
.ends  ET35_744866563_56m
**********
.SUBCKT ET35_744866692_6.9m  1  2  3  4
X1  1  2  3  4  FCL  PARAMS:
+  L1=3m
+  L2=3m
+  L3=0.004929291843546601
+  L4=9.67471514731328e-006
+  L5=6.96173877496358e-004
+  L6=4.06452624158199e-008
+  C1=8p
+  C2=8.70245598062277e-011
+  C3=9.9379663444007e-013
+  Rs1=50000
+  Rs2=38000
+  Rs3=23032.76947949667
+  Rs4=9352.7577365101
+  Rs5=256.5292349339921
+  Rs6=1411.8156935242947
+  R2=12.4422510600994
+  dL3=4u
+  dC3=1p
+  dL4=4.51e-9
+  dC4=3.33e-07
+  dR3=0.2
+  dR4=20800
+  dR5=600.58
+  dR6=52606
+  Rdc=0.5
+  ck=5.5p
.ends ET35_744866692_6.9m
